US06841680B2
6-(3.5-Dichlorophenyl)-2-(3-fluorophenyl)N-methyl-4-quinolinamine:
To 0.4 g. (1.2 mmole) of N-[6-bromo-2-(3-fluorophenyl)4-quinolinyl]-N-methylamine was added 0.275 g. (1.45 mmole) of 3,5-dichlorophenylboronic acid and a catalytic amount of tris(dibenzylideneacetone)dipalladium (0), 0.0109 g. (0.012 mmole). The mixture was dissolved in 7 mL of N-methyl-2-pyrrolidinone. Sodium carbonate, 0.105 g. (1.45 mmole) was dissolved in a minimal amount of water and added in one portion to the N-methyl-2-pyrrolidinone reaction solution. The mixture was heated to 80° C. for 10 hours. After cooling to room temperature, the mixture was diluted to 10 mL total volume with methanol and filtered through a silica plug. The title compound was isolated by reverse phase HPLC on a 2 inch Dynamax phenyl column using a solvent gradient from 85:15 methanol:water to 100% methanol, yield 0.320 g. (67%).

reactant | N-[6-bromo-2-(3-fluorophenyl)4-quinolinyl]-N-methylamine | 1.2 mmole | BrC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)NC | C16H12BrFN2
reactant | 3,5-dichlorophenylboronic acid | 1.45 mmole | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N-methyl-2-pyrrolidinone | 7 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | methanol | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(3.5-Dichlorophenyl)-2-(3-fluorophenyl)N-methyl-4-quinolinamine | ClC=1C=C(C=C(C1)Cl)C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)NC | C22H15Cl2FN2
